US04853476
N-[(S)2-[(ethoxyethyl phospinyl)oxy]-1-oxo-3-phenylpropyl]β-alanine ethyl ester
Use the same procedure substituting ethyl ethylphosphonochloridate with the appropriate aralkyl ethylphosphonochloridate or phenyl ethyl-phosphonochloridate and when necessary substituting N-(S)-phenyllactoyl) β-alanine ethyl ester with N-(S)-phenyllactoyl) β-alanine benzyl ester, N-(S)-phenyllactoyl) p-aminobenzoic acid ethyl ester or N-(S)-phenyllactoyl) p-aminobenzoic acid benzyl ester and synthesize compounds 3, 6, 8, 11, 13, 16, 18, 21, 23, 31 or 33.

reactant | phenyl ethyl-phosphonochloridate | C(C)P(OC1=CC=CC=C1)(=O)Cl | C8H10ClO2P
reactant | β-alanine ethyl ester | C(C)OC(CCN)=O | C5H11NO2
reactant | β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCN)=O | C10H13NO2
reactant | p-aminobenzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | p-aminobenzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)N)=O | C14H13NO2
product | N-[(S)2-[(ethoxyethyl phospinyl)oxy]-1-oxo-3-phenylpropyl]β-alanine ethyl ester | C(C)OC(CCNC([C@H](CC1=CC=CC=C1)OP(=O)CCOCC)=O)=O | C18H28NO6P
